US07964612B2
Step iv: trifluoro-methanesulfonic acid 2-(6-methyl-pyridin-2-yl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl ester.
To an oven-dried rounded bottomed flask was added 2-(6-methyl-pyridin-2-yl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-ol (17.3 g) and triethylamine (9.76 g, 13.44 mL) in dichloromethane (350 mL) and the reaction mixture was cooled to −78° C. To this was added trifluoromethane sulfonic anhydride (16.23 mL) via a pressure equalizing funnel over 10 minutes. The resultant mixture was stirred at −78° C. for 1 hour and then allowed to warm to room temperature and stir for an additional hour. The solvent was removed in vacuo to provide a brown precipitate. The brown precipitate was purified via flash silica gel chromatography (60% hexanes/40% ethyl acetate) to provide an off-white solid (8.848 g) followed by another batch of material (12.2 g) of slightly less pure material.

reactant | 2-(6-methyl-pyridin-2-yl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-ol | 17.3 g | CC1=CC=CC(=N1)N1N=C2C(=C1O)CCC2 | C12H13N3O
reactant | triethylamine | 13.44 mL, 9.76 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethane sulfonic anhydride | 16.23 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid 2-(6-methyl-pyridin-2-yl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl ester | 8.848 g | CC1=CC=CC(=N1)N1N=C2C(=C1OS(=O)(=O)C(F)(F)F)CCC2 | C13H12F3N3O3S
